US07737166B2
4-Cyano-N-ethyl-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-285)
Under nitrogen atmosphere, trimethylaluminium (1.03 M n-hexane solution) (2.40 ml, 2.47 mmol) was dropwise added at room temperature to a dichloromethane (8 ml) solution of N-ethylmethylamine (146 mg, 2.47 mmol), followed by stirring for 80 minutes. Subsequently, a dichloromethane (4 ml) solution of ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate (I-111) (400 mg, 1.23 mmol) was dropwise added, followed by stirring for 19 hours. After the reaction, aqueous 1 N hydrochloric acid solution was added to the reaction liquid with cooling with ice, followed by stirring at room temperature, then the reaction liquid was extracted with chloroform. Next, the combined organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=2:1, v/v) to obtain the entitled compound (362 mg, 87%) as a white solid.

reactant | trimethylaluminium | 2.47 mmol, 1.03 M, 2.40 ml | C[Al](C)C
reactant | N-ethylmethylamine | 2.47 mmol, 146 mg | C(C)NC | C3H9N
reactant | ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate | 1.23 mmol, 400 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)OCC)F)C2=CC=CC=C2)C | C18H13FN2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 4-Cyano-N-ethyl-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 362 mg, 87% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)CC)F)C2=CC=CC=C2)C | C19H16FN3O2
